US07060827B2
The 5-[(4-nitrophenoxy)methyl]-3-phenyl-1,2,4-oxadiazole (0.5 g, 1.68 mmole) was dissolved in methanol:methylenechloride (1:1) (120 mL). Aqueous solution of (15 mL) sodium hydrosulfite (0.88 g, 5.05 mmole) and K2CO3 (0.70 g, 5.06 mmole) was added dropwise under nitrogen for 10 min. The contents were allowed to stir at room temperature. After consumption of starting material, reaction mixture was concentrated, diluted with water till the homogeneous layer formed. The aqueous layer was extracted with several times with ethylacetate and methylene chloride. The turbid organic layers were combined, dried with anhydrous Na2SO4 and concentrated. Purification of the solid concentrate by silica gel chromatography provided 5-[(4-aminophenoxy)methyl]-3-phenyl-1,2,4-oxadiazole (0.23 g, 51%). 1H NMR (CDCl3): δ 8.11 (m, 2H), 7.52–7.46 (m, 3H), 6.87 (d, 2H, J=8.8 Hz), 6.64 (d, 2H, J=8.8 Hz), 5.26 (s, 2H), 3.49 (br s, 2H).

reactant | 5-[(4-nitrophenoxy)methyl]-3-phenyl-1,2,4-oxadiazole | 1.68 mmole, 0.5 g | [N+](=O)([O-])C1=CC=C(OCC2=NC(=NO2)C2=CC=CC=C2)C=C1 | C15H11N3O4
reactant | sodium hydrosulfite | 5.05 mmole, 15 mL, 0.88 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | K2CO3 | 5.06 mmole, 0.70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol methylenechloride | 120 mL | CO.C(Cl)Cl
product | 5-[(4-aminophenoxy)methyl]-3-phenyl-1,2,4-oxadiazole | 0.23 g, 51% | NC1=CC=C(OCC2=NC(=NO2)C2=CC=CC=C2)C=C1 | C15H13N3O2
